US08624034B2
Step B) Ethyl (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate
Pd(dppf)Cl2 (484 mg, 0.59 mmol) was added to a mixture of ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate, T2, (2.20 g, 4.94 mmol), 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole (2.01 g, 7.41 mmol), and potassium phosphate (3.95 g, 14.8 mmol) in 2-methyltetrahydrofuran (200 mL) and deionized water (40 mL). The reaction was heated to 60° C. and was vigorously stirred at this temperature overnight. The reaction was diluted with EtOAc (100 mL) and water (100 mL) and was filtered through a celite pad (˜1 inch). The filter pad was washed with EtOAc (100 mL) and the filtrates were combined. The aqueous layer was separated and was extracted with EtOAc (2×100 mL). The combined organics were washed with brine (100 mL), dried (MgSO4), filtered and concentrated. The crude material was purified via flash chromatography using a Varian SF25-40 g column and an eluent of EtOAc in hexanes (30-100%) to afford the title compound as a yellow solid (1.54 g, 67.4%). MS (LCMS) m/z 463.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.23 (t, 3H) 1.62 (s, 3H) 2.18-2.32 (m, 1H) 2.52-2.66 (m, 1H) 3.16 (s, 3H) 3.92-4.07 (m, 2H) 4.08-4.24 (m, 2H) 6.59 (d, J=7.81 Hz, 1H) 7.72-7.84 (m, 2H) 8.10 (d, J=6.63 Hz, 1H) 8.12-8.17 (m, 2H) 8.18 (s, 2H).

reactant | ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)I | C13H17FINO5S
reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2H-1,2,3-triazole | 4.94 mmol, 2.20 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1N=CC=N1)C | C14H18BN3O2
reactant | potassium phosphate | 14.8 mmol, 3.95 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 2-methyltetrahydrofuran | 200 mL | CC1OCCC1 | C5H10O
solvent | water | 40 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 100 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.59 mmol, 484 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate | 1.54 g, 67.4% | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)N1N=CC=N1 | C21H23FN4O5S
